US04692524
Over 50 minutes, a solution of 8.8 g (0.127 mole) of sodium nitrite in 10 ml of dimethylformamide is added dropwise at 140° C. to a solution of 8.7 g (0.038 mole) of 4-chloro-6-difluoromethoxy-2-methylthiopyrimidine in 10 ml of dimethylformamide. When the addition of the sodium nitrite is complete, the mixture is stirred for 2 hours at 140° to 150° C. The solvent is then evaporated off in vacuo and the residue is crystallised from 1N hydrochloric acid, affording 5.6 g (70% of theory) of 4-difluoromethoxy-6-hydroxy-2-methylthiopyrimidine with a melting point of 236°-237° C.

reactant | sodium nitrite | 0.127 mole, 8.8 g | N(=O)[O-].[Na+]
reactant | 4-chloro-6-difluoromethoxy-2-methylthiopyrimidine | 0.038 mole, 8.7 g | ClC1=NC(=NC(=C1)OC(F)F)SC | C6H5ClF2N2OS
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-difluoromethoxy-6-hydroxy-2-methylthiopyrimidine | 5.6 g, 70% | FC(OC1=NC(=NC(=C1)O)SC)F | C6H6F2N2O2S
